US05081248
2-Aminooxymethyl-1,5-dihydroxy-4-pyridone (another method)
To 38.6 g of 2-phthalimidooxymethyl-1,5-dibenzhydryloxy-4-pyridone, 220 ml of glacial acetic acid and 48 ml of concentrated hydrochloric acid were added, and the mixture was reacted at 100° C. for 3 hours. After completion of the reaction, the reaction solution was concentrated. To the concentrated solution, 240 ml of water was added, and insoluble matters were separated by filtration. The insoluble matters were washed with 80 ml of water, and the filtrate and the washing solution were put together. Then, a powder of sodium carbonate was added thereto to adjust the pH to 3.0, whereupon precipitates were collected by filtration. A powder of sodium carbonate was further added to the filtrate to adjust the pH to 5.2, and the mixture was stirred for 2 hours and then left to stand overnight in a refrigerator. Precipitated crystals were collected by filtration, and the crystals were washed with water and then dried to obtain 8.1 g of the above identified compound as a slightly yellowish white product. The IR and NMR spectra of the compound thus obtained, agreed with those obtained in Example 1.

reactant | 2-phthalimidooxymethyl-1,5-dibenzhydryloxy-4-pyridone | 38.6 g | C1(C=2C(C(N1OCC=1N(C=C(C(C1)=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O)=CC=CC2)=O | C40H30N2O6
reactant | hydrochloric acid | 48 ml | Cl | ClH
solvent | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
product | 2-Aminooxymethyl-1,5-dihydroxy-4-pyridone | NOCC=1N(C=C(C(C1)=O)O)O | C6H8N2O4
